US07989454B2
To a solution of 4-{3-[6-(5-dimethylcarbamoyl-3′,4′-difluoro-biphenyl-3-yloxy)-hexyl]-2-(2-ethoxycarbonyl-ethyl)-phenoxy}-butyric acid ethyl ester (143 mg, 0.214 mmol) in THF (5 mL) and ethanol (5 mL) was added aqueous 1.0 N sodium hydroxide (5 mL) at room temperature. The mixture was stirred for 7 h at room temperature. Then, the reaction mixture was concentrated, the residue was diluted with water (20 mL) and extracted with diethyl ether (50 mL) to remove any neutral impurities. The aqueous layer was acidified with 1 N hydrochloric acid and the organic compound was extracted into ethyl acetate (2×50 mL). The combined organic extracts were washed with brine solution (50 mL) and dried over anhydrous magnesium sulfate. Filtration of the drying agent and removal of the solvent under vacuum gave 4-{2-(2-carboxy-ethyl)-3-[6-(5-dimethylcarbamoyl-3′,4′-difluoro-biphenyl-3-yloxy)-hexyl]-phenoxy}-butyric acid (125 mg, 95%) as a white amorphous solid.

reactant | 4-{3-[6-(5-dimethylcarbamoyl-3′,4′-difluoro-biphenyl-3-yloxy)-hexyl]-2-(2-ethoxycarbonyl-ethyl)-phenoxy}-butyric acid ethyl ester | 0.214 mmol, 143 mg | C(C)OC(CCCOC1=C(C(=CC=C1)CCCCCCOC=1C=C(C=C(C1)C(N(C)C)=O)C1=CC(=C(C=C1)F)F)CCC(=O)OCC)=O | C38H47F2NO7
reactant | sodium hydroxide | 1.0 N, 5 mL | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-{2-(2-carboxy-ethyl)-3-[6-(5-dimethylcarbamoyl-3′,4′-difluoro-biphenyl-3-yloxy)-hexyl]-phenoxy}-butyric acid | 125 mg, 95% | C(=O)(O)CCC1=C(OCCCC(=O)O)C=CC=C1CCCCCCOC=1C=C(C=C(C1)C(N(C)C)=O)C1=CC(=C(C=C1)F)F | C34H39F2NO7
